US05017569
Concentrated sulphuric acid (4 ml) and 2,3-dihydroxybenzoic acid (1 g) were heated at 60° C. for 1 hour. Methanol (15 ml) was added and the solution stirred under reflux for a further 3 hours. The solvent was evaporated and the residue purified on Diaion HP 20 SS resin (aqueous methanol with 1% acetic acid) to give 3-methoxycarbonyl-4,5-dihydroxybenzene sulphonic acid (1.8 g); δ(DMSO-d6); 3.88(s,3H); 7.32(d,1H); 7.57(d,1H). This was treated as in F (above) (chromatography on silica with methanol/dichloromethane as eluent) to give the title compound as a crystalline solid; δ(CDCl3); 1.31(s,6H); 1.38(s,6H); 2.80-3.20(m,2H); 3.92(s,3H); 8.04(d,1H); 8.50(d,1H).

reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2,3-dihydroxybenzoic acid | 1 g | OC1=C(C(=O)O)C=CC=C1O | C7H6O4
reactant | Methanol | 15 ml | CO | CH4O
product | 3-methoxycarbonyl-4,5-dihydroxybenzene sulphonic acid | 1.8 g | COC(=O)C=1C=C(C=C(C1O)O)S(=O)(=O)O | C8H8O7S
